US05478842
Using an analogous procedure to that described in Example 5, 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with 3-hydroxy-3-(2-mercaptothien-4-yl)-8-oxabicyclo[3,2,1]octane to give 3-hydroxy-3-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-8-oxabicyclo[3,2,1]octane in 28% yield.

reactant | 6-iodo-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | IC=1C=C2CCC(N(C2=CC1)C)=O | C10H10INO
reactant | 3-hydroxy-3-(2-mercaptothien-4-yl)-8-oxabicyclo[3,2,1]octane | OC1(CC2CCC(C1)O2)C=2C=C(SC2)S | C11H14O2S2
product | 3-hydroxy-3-[2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)thien-4-yl]-8-oxabicyclo[3,2,1]octane | 28% yield | OC1(CC2CCC(C1)O2)C=2C=C(SC2)SC=2C=C1CCC(N(C1=CC2)C)=O | C21H23NO3S2
